US08685969B2
5. 7-(Benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid
To a solution of ethyl 7-(benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylate (0.238 g, 0.492 mmol) in tetrahydrofuran (12 mL) and methanol (4 mL) at room temperature was added a solution of lithium hydroxide hydrate (0.083 g, 1.969 mmol) in water (1.8 mL). The mixture was stirred at room temperature for 1 hr, and then concentrated under vacuum. To the residue was added water (5 ml), and the mixture was acidified to pH 5 with 1 N HCl. The precipitating product (0.214 g, 0.470 mmol, 95% yield) was collected by suction filtration and dried over Drierite under vacuum.

reactant | ethyl 7-(benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylate | 0.492 mmol, 0.238 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)OCC | C28H22FN3O4
reactant | lithium hydroxide hydrate | 1.969 mmol, 0.083 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 1.8 mL | O | H2O
product | 7-(Benzyloxycarbonylamino)-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.470 mmol, 0.214 g, 95% yield | C(C1=CC=CC=C1)OC(=O)NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)O | C26H18FN3O4
